US04937251
6-[2-(2-Pyridinyl)ethoxy]hexanal
A solution of 6-[2-(2-pyridinyl)ethoxy]hexanol (1.0 g) in dichloromethane (8 ml) was added dropwise over 15 min to a stirred suspension of pyridinium chlorochromate (1.83 g) and silica (Merck 7734, 2.9 g) in dichloromethane (30 ml). The mixture was stirred at room temperature under nitrogen for 4 h, diluted with ether (100 ml) and filtered through silica (Merck 9385, 200 ml), eluting with dichloromethane followed by methanol to give a brown oil. Purification by FCC eluting with ether gave the title compound as a yellow oil (0.49 g), t.l.c. (System A 40:10:1) Rf 0.42.

reactant | 6-[2-(2-pyridinyl)ethoxy]hexanol | 1.0 g | N1=C(C=CC=C1)CCOCCCCCCO | C13H21NO2
reactant | pyridinium chlorochromate | 1.83 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 6-[2-(2-Pyridinyl)ethoxy]hexanal | 0.49 g | N1=C(C=CC=C1)CCOCCCCCC=O | C13H19NO2
